US07777047B2
ethyl 7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate
A mixture of ethyl 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate (3.30 g), potassium carbonate (1.05 g) and N,N-dimethylformamide (50 mL) was stirred at 0° C. for 30 min. Methyl iodide (1.08 g) was added to the reaction mixture at 0° C., and the mixture was stirred at room temperature for 15 hr. Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (9:1-3:1, volume ratio) to give the title compound (2.26 g, yield 66%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane to give colorless prism crystals. melting point 149-150° C.

reactant | ethyl 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 3.30 g | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC(F)(F)F | C16H13F3N2O5S2
reactant | potassium carbonate | 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 1.08 g | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 2.26 g, yield 66% | CN(C=1C=C(C=C2C=C(NC12)C(=O)OCC)OC(F)(F)F)S(=O)(=O)C=1SC=CC1 | C17H15F3N2O5S2
